US07273875B2
4-[8-(3-Cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid
A solution of lithium hydroxide (6.5 mg, 0.155 mmol) in water (160 μl) is added to a solution of 4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexane carboxylic acid ethyl ester (60 mg, 0.155 mmol) in NMP(0.16 ml). Upon completion, the reaction is diluted with water and washed with ethyl acetate (5 ml). The aqueous layer is acidified with 5% citric acid and the product is extracted into ethyl acetate. The organic layer is dried over brine (10 ml) and anhydrous MgSO4, filtered and evaporated. Purification by flash chromatography using Keiselgel 40-63 grade silica and eluting with 1.5% CH3OH:0.5% CH3COOH: dichloromethane affords the title compound. MH+ 357.0. mp 179.8-180.3° C.

reactant | lithium hydroxide | 0.155 mmol, 6.5 mg | [OH-].[Li+]
reactant | 4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexane carboxylic acid ethyl ester | 0.155 mmol, 60 mg | C(C)OC(=O)C1CCC(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N | C24H23N3O2
solvent | water | 160 μl | O | H2O
solvent | NMP | 0.16 ml | CN1CCCC1=O | C5H9NO
product | 4-[8-(3-Cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid | C(#N)C=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)C1CCC(CC1)C(=O)O | C22H19N3O2
